US07872028B2
Step 4. (R)-tert-butyl 2-((S)-(2-aminoethoxy)(3-chlorophenyl)methyl)morpholine-4-carboxylate
(R)-tert-butyl 2-((S)-(3-chlorophenyl)(cyanomethoxy)methyl)morpholine-4-carboxylate (1.3 g, 3.55 mmol) was dissolved in anhydrous THF (25 mL), and the solution was heated to reflux under N2. A solution of BH3.Me2S in THF (5 mL) was added dropwise, and stirring was continued under reflux overnight. The resulting solution was cooled to rt, MeOH was added dropwise to quench the reaction until gas evolution ceased. After evaporation of the solution, the crude product was used for the next step.

reactant | (R)-tert-butyl 2-((S)-(3-chlorophenyl)(cyanomethoxy)methyl)morpholine-4-carboxylate | 3.55 mmol, 1.3 g | ClC=1C=C(C=CC1)[C@@H]([C@H]1CN(CCO1)C(=O)OC(C)(C)C)OCC#N | C18H23ClN2O4
reactant | Me2S | S(C)C | C2H6S
reactant | MeOH | CO | CH4O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (R)-tert-butyl 2-((S)-(2-aminoethoxy)(3-chlorophenyl)methyl)morpholine-4-carboxylate | NCCO[C@H]([C@H]1CN(CCO1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)Cl | C18H27ClN2O4
